US07576208B2
9a. Synthesis of 5,14-Pentacenequinone—Compound 13
To a flame-dried flask was added 2,3-naphthalenedicarboxaldehyde (1 molar equivalent (0.29 g, 1.57 mmol)) and 1,4-dihydroxynaphthalene (1 molar equivalent (0.25 g, 1.57 mmol)) these reagents were flushed with nitrogen for 15 minutes before anhydrous pyridine (5 ml) was added. The resulting solution was stirred at 120° C. with stirring for 24 hours. On cooling, the solid product was filtered off and washed successively with methanol (10 ml), 10% copper sulphate solution (10 ml), water (10 ml) and acetone (10 ml) and dried in vacuum oven. The product was an orange/brown solid (0.14 g, 29%) and was greater than 90% pure by HPLC. 1H NMR (D8-THF) δ 9.09 (2H, s, H—Ar), 8.87 (2H, s, H—Ar), 8.38 (2H, m, H—Ar), 8.15 (2H, m, H—Ar), 7.87 (2H, m, H—Ar) and 7.61 ppm (2H, m, H—Ar).

reactant | 2,3-naphthalenedicarboxaldehyde | 1.57 mmol, 1 molar, 0.29 g | C1=C(C(=CC2=CC=CC=C12)C=O)C=O | C12H8O2
reactant | 1,4-dihydroxynaphthalene | 1.57 mmol, 1 molar, 0.25 g | OC1=CC=C(C2=CC=CC=C12)O | C10H8O2
product | 5,14-Pentacenequinone | C1=CC=CC=2C(C3=CC4=CC5=CC=CC=C5C=C4C=C3C(C12)=O)=O | C22H12O2
